* C:\Users\kenny\Documents\GitHub\SeniorDesign-Team9\Simulations\LTC3780 - LTSpice - 19V 10A - Ken\LTC3780.asc
XU1 N006 N017 N018 N019 N016 N013 0 N005 0 0 NC_01 N012 N007 N001 N002 N003 0 N011 N004 0 IN N010 N009 N008 LTC3780
M§Q1 IN N001 N002 N002 SUD40N04-10A
M§Q2 N002 N003 N014 N014 SUD40N04-10A
M§Q3 OUT N009 N010 N010 SUD40N04-10A
M§Q4 N010 N011 N014 N014 SUD40N04-10A
L1 N002 N010 6.8µ Rser=0.088 Rpar=2K
R1 N014 0 .006
R2 N014 0 .006
C2 IN 0 27µ Rser=0.1
C3 N004 0 4.7µ
C4 N017 0 .001µ
R3 N016 N015 100K
C5 N015 0 .01µ
R4 N014 N018 100
R5 0 N019 100
V1 IN 0 14.8
R6 IN N005 51K
R7 OUT N013 100k
R8 N013 0 4.3k
C6 N008 N010 .22µ
C7 N007 N002 .22µ
C8 N012 0 .001µ
R9 N004 N006 100K
D1 N010 OUT MBRS340
D2 N014 N002 MBRS340
C9 OUT 0 22µ Rser=0.01
C10 IN 0 3.3µ Rser=0.01
C11 N019 N018 100p
C12 N016 0 100p
D3 0 N005 1N750
Rload OUT 0 1.9
D4 N004 N008 1N5819
D5 N004 N007 1N5819
C1 OUT 0 330µ Rser=0.05
C13 OUT 0 300µ
.model D D
.lib C:\Users\kenny\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\kenny\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 6m steady startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LTC3780 Design - High Efficiency Buck-Boost DC/DC Converter\nInput: 6 to 30V    Output: 12V @ 5A
.lib LTC3780.sub
.backanno
.end
