* C:\Users\kenny\Documents\GitHub\SeniorDesign-Team9\Simulations\LTC3780 - LTSpice - 19V 10A - Ken\LTC3780.asc
XU1 N006 N016 N017 N018 N015 N013 0 N005 0 0 NC_01 N012 N007 N001 N002 N003 0 N011 N004 0 IN N010 N009 N008 LTC3780
M§Q1 IN N001 N002 N002 SUD40N04-10A
M§Q2 N002 N003 Vsense Vsense SUD40N04-10A
M§Q3 Vout N009 N010 N010 SUD40N04-10A
M§Q4 N010 N011 Vsense Vsense SUD40N04-10A
L1 N002 N010 6.8µ Rser=0.088 Rpar=2K
Rs Vsense 0 .006
Rsen Vsense 0 .006
ClowESR N004 0 4.7µ
Css N016 0 .001µ
Rth N015 N014 124k
Cth N014 0 10000p
R4 Vsense N017 100
R5 0 N018 100
Vin IN 0 16.8
Rinrun IN N005 51K
Rt Vout N013 100k
Rb N013 0 4.3k
Casw1 N008 N010 .22µ
Cbsw2 N007 N002 .22µ
Cstbymd N012 0 .001µ
Rpgood N004 N006 100K
D1 N010 Vout MBRS340
D2 Vsense N002 MBRS340
Coutc Vout 0 47µ Rser=0.01
Cinc IN 0 10µ Rser=4m
Cs N018 N017 100p
Cthp N015 0 47p
D3 0 N005 1N750
Rload Vout 0 1.9
D4 N004 N008 MBRS340
D5 N004 N007 MBRS340
Coutb Vout 0 330µ Rser=0.05
Coutfilter Vout 0 1000µ
C1 IN 0 270 Rser=16m
.model D D
.lib C:\Users\kenny\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\kenny\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 10m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LTC3780 Design - High Efficiency Buck-Boost DC/DC Converter\nInput: 14V to 16.8V    Output: 19V @ 10A
.lib LTC3780.sub
.backanno
.end
